US07960395B2
d) (2R)-2-[(2-Amino-5-{[(1S)-1-(5-chloropyridin-2-yl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol
The title compound was prepared by general method A starting from (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol (823 mg, 2.75 mmol) and 5-chloro-2-[(1R)-1-chloroethyl]pyridine (<4.4 mmol). Purification by flash column chromatography (eluent DCM: methanol gradient) yielded 350 mg (30% yield) of the title compound.

reactant | (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 2.75 mmol, 823 mg | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
reactant | 5-chloro-2-[(1R)-1-chloroethyl]pyridine | <4.4 mmol | ClC=1C=CC(=NC1)[C@@H](C)Cl | C7H7Cl2N
product | (2R)-2-[(2-Amino-5-{[(1S)-1-(5-chloropyridin-2-yl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 350 mg, 30% yield | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S[C@@H](C)C2=NC=C(C=C2)Cl)N1 | C18H23ClN6OS2
